US07417046B2
B. 1-[3-(4-Chloro-3-nitro-phenyl)-1-oxiranyl methyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone
A solution of 1-[3-(4-chloro-3-nitro-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (6.4 g, 20.0 mmol) in DMF (60 mL) was treated with cesium carbonate (13.0 g, 40 mmol) and epichlorohydrin (15.6 mL, 200.0 mmol) at room temperature. The reaction mixture was stirred at room temperature for an additional 24 h before it was diluted with ethyl acetate (350 mL) and water (50 mL). The organic layer was separated, washed with water (2×50 mL), brine (50 mL), dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica, 10% acetone/CH2Cl2) to provide 7.5 g (83%) of a light yellow powder. MS (electrospray): m/z 377.0 (377.0, calculated for C17H17ClN4O4, [M+H]+). 1H NMR (CDCl3, 400 MHz, a mixture of two rotamers): 8.15-8.05 (m, 1H), 7.75-7.65 (m, 1H), 7.55-7.45 (m, 1H), 4.80-4.65 (m, 1.2H), 4.60 (s, 0.8H), 4.45-4.35 (m, 1H), 4.08-4.02 (m, 1H), 3.92-3.80 (m, 1H), 3.70-3.63 (m, 1H), 3.30-3.20 (m, 1H), 2.90-2.67 (m, 3H), 2.55-2.48 (m, 1H), 2.15 (s, 1.7H), 2.10 (s, 1.3H).

reactant | 1-[3-(4-chloro-3-nitro-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 20.0 mmol, 6.4 g | ClC1=C(C=C(C=C1)C1=NNC2=C1CN(CC2)C(C)=O)[N+](=O)[O-] | C14H13ClN4O3
reactant | cesium carbonate | 40 mmol, 13.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | epichlorohydrin | 200.0 mmol, 15.6 mL | C(Cl)C1CO1 | C3H5ClO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 1-[3-(4-Chloro-3-nitro-phenyl)-1-oxiranyl methyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 7.5 g, 83% | ClC1=C(C=C(C=C1)C1=NN(C2=C1C(N(CC2)C(C)=O)C)C2OC2)[N+](=O)[O-] | C17H17ClN4O4
